US06403584B1
To a solution of 15.15 g (4.1 mmol) N-(CBZ)-(L)-tyrosine, tert-butyl ester in 150 mL of dry methylene chloride at 0° C. was added 12.9 g (164 mmol) of pyridine followed by the dropwise addition of 12.68 g (4.5 mmol) of trifluoromethylsulfonyl chloride. The reaction mixture was stirred at room temperature for 4 hours at which time TLC (25% EtOAc in hexanes) indicated complete consumption of starting material. The reaction mixture was shaken with 1N HCl (3×100 mL), saturated NaHCO3 solution (2×50 mL), and brine (1×50 mL). The organic phase was dried over anhydrous MgSO4, filtered and concentrated in vacuo to give N-(CBZ)-4-(trifluoromethylsulfonyloxy)-(L)-phenylalanine, tert-butyl ester.

reactant | N-(CBZ)-(L)-tyrosine, tert-butyl ester | 4.1 mmol, 15.15 g | C(=O)(OCC1=CC=CC=C1)N[C@@H](CC1=CC=C(C=C1)O)C(=O)OC(C)(C)C | C21H25NO5
reactant | pyridine | 164 mmol, 12.9 g | N1=CC=CC=C1 | C5H5N
reactant | trifluoromethylsulfonyl chloride | 4.5 mmol, 12.68 g | FC(S(=O)(=O)Cl)(F)F | CClF3O2S
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | methylene chloride | 150 mL | C(Cl)Cl | CH2Cl2
product | N-(CBZ)-4-(trifluoromethylsulfonyloxy)-(L)-phenylalanine, tert-butyl ester | C(=O)(OCC1=CC=CC=C1)N[C@@H](CC1=CC=C(C=C1)OS(=O)(=O)C(F)(F)F)C(=O)OC(C)(C)C | C22H24F3NO7S
